US03944575
A stirred mixture of 2,2'-bis(3,4-dinitrophenoxy)biphenyl (22.0 g, 0.0425 mole) and 10 weight percent palladium on charcoal (2.2 g) in absolute ethanol (500 ml) was heated to reflux under nitrogen, and a solution of hydrazine hydrate (43 ml) in ethanol (100 ml) was added dropwise over a period of 40 minutes. The reaction mixture was heated at reflux for 17 hours, chilled in an ice bath, and suction filtered through Celite filter aid into one liter of stirred, cold, concentrated hydrochloric acid. The resulting precipitate of hydrazine hydrochloride and desired tetraamine hydrochloride was collected, partially dried and dissolved in water (1 liter). Concentrated ammonium hydroxide solution (300 ml) was added and the resulting precipitate collected and vacuum dried to produce 14.9 g (88 percent) of 2,2'-bis(3,4-diaminophenoxy)biphenyl). A portion of the product was recrystallized from ethanol-water to provide an analytical sample (melting point 172°-174°C).

reactant | 2,2'-bis(3,4-dinitrophenoxy)biphenyl | 0.0425 mole, 22.0 g | [N+](=O)([O-])C=1C=C(OC2=C(C=CC=C2)C2=C(C=CC=C2)OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC1[N+](=O)[O-] | C24H14N4O10
reactant | hydrazine hydrate | 43 ml | O.NN
catalyst | palladium on charcoal | 2.2 g | [Pd] | Pd
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,2'-bis(3,4-diaminophenoxy)biphenyl | 14.9 g, 88 percent | NC=1C=C(OC2=C(C=CC=C2)C2=C(C=CC=C2)OC2=CC(=C(C=C2)N)N)C=CC1N | C24H22N4O2
